US09303028B2
To a mixture of 2-fluoro-N-methyl-4-(3-(piperidin-4-yl)pyrazin-2-yl)benzamide trihydrochloride (315 mg, 0.743 mmol), 2,7-dichloroquinoline (192 mg, 0.969 mmol), cesium carbonate (1211 mg, 3.72 mmol), dioxane (4 mL), and bis(tri-t-butylphosphine)palladium(0) (89 mg, 0.174 mmol). The solution was stirred at 90° C. After stirring for 5 h, the reaction was allowed to cool to room temperature and filtered. The solids were washed with EtOAc. The filtrate was concentrated to ½ it's original volume and purified by reverse-phase preparative HPLC (Shimadzu) on a Phenomenex Gemini column (10 micron, C18, 110 Å, Axia, 100×50 mm) eluting at 90 mL/min with a linear gradient of 10-60% MeCN (0.1% TFA) in water (0.1% TFA) over 20 min. The desired fractions were poured into 10% Na2CO3 and extracted with dichloromethane (DCM) (8×10 mL). The combined DCM layers were dried over MgSO4 and concentrated in vacuo to give 4-(3-(1-(7-chloroquinolin-2-yl)piperidin-4-yl)pyrazin-2-yl)-2-fluoro-N-methylbenzamide (135 mg, 0.284 mmol, 38.2% yield), as an off white solid. m/z=476 (M+1). 1H NMR (300 MHz, CDCl3) δ 8.54 (d, J=2.34 Hz, 1H), 8.49 (d, J=2.34 Hz, 1H), 8.27 (t, J=8.04 Hz, 1H), 7.83 (d, J=9.35 Hz, 1H), 7.67 (d, J=2.05 Hz, 1H), 7.49 (d, J=8.62 Hz, 1H), 7.44 (dd, J=1.46, 8.04 Hz, 1H), 7.35 (dd, J=1.46, 12.42 Hz, 1H), 7.15 (dd, J=2.05, 8.48 Hz, 1H), 6.98 (d, J=9.35 Hz, 1H), 6.79 (d, J=6.28 Hz, 1H), 4.68 (d, J=13.30 Hz, 2H), 3.16-3.31 (m, 1H), 3.09 (dd, J=0.80, 4.75 Hz, 3H), 2.86-3.02 (m, 2H), 2.01-2.19 (m, 2H), 1.82 (d, J=11.55 Hz, 2H).

reactant | 2-fluoro-N-methyl-4-(3-(piperidin-4-yl)pyrazin-2-yl)benzamide trihydrochloride | 0.743 mmol, 315 mg | Cl.Cl.Cl.FC1=C(C(=O)NC)C=CC(=C1)C1=NC=CN=C1C1CCNCC1
reactant | 2,7-dichloroquinoline | 0.969 mmol, 192 mg | ClC1=NC2=CC(=CC=C2C=C1)Cl | C9H5Cl2N
reactant | cesium carbonate | 3.72 mmol, 1211 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | bis(tri-t-butylphosphine)palladium(0) | 0.174 mmol, 89 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 4-(3-(1-(7-chloroquinolin-2-yl)piperidin-4-yl)pyrazin-2-yl)-2-fluoro-N-methylbenzamide | 0.284 mmol, 135 mg, 38.2% yield | ClC1=CC=C2C=CC(=NC2=C1)N1CCC(CC1)C=1C(=NC=CN1)C1=CC(=C(C(=O)NC)C=C1)F | C26H23ClFN5O
